US06020531
The mixture of 2-bromocyclohexylacetaldehyde 1.14 g, 3-methoxythiophenol 779 mg, potassium carbonate 1.54 g and acetone 20 ml is stirred at a room temperature for 21 hours. The solvent is distilled off under reduced pressure, and water 10 ml is added. Then, extraction is carried out twice with ethyl ether 20 ml. The organic layer is washed with saturated brine 5 ml and then dried on magnesium sulfate anhydrous. The solvent is distilled off under reduced pressure, and the residue is subjected to silica gel chromatography (hexane: chloroform=9:1), whereby colorless oily 2-(3-methoxyphenylthio)cyclohexylacetaldehyde 1.26 g is obtained. The yield: 86%.

reactant | 2-bromocyclohexylacetaldehyde | 1.14 g | BrC1C(CCCC1)CC=O | C8H13BrO
reactant | 3-methoxythiophenol | 779 mg | COC=1C=C(C=CC1)S | C7H8OS
reactant | potassium carbonate | 1.54 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 2-(3-methoxyphenylthio)cyclohexylacetaldehyde | 1.26 g, yield: 86% | COC=1C=C(C=CC1)SC1C(CCCC1)CC=O | C15H20O2S
